US08957096B2
3. Synthesis of 2-chloro-4-(methylsulfonyl)-N-(1-methyl-1H-1,2,4-triazol-5-yl)-3-{[(propan-2-ylideneamino)oxy]methyl}benzamide (Table example 6-017)
500 mg (1.56 mmol) of 2-chloro-4-(methylsulfonyl)-3-{[(propan-2-ylideneamino)oxy]methyl}benzoic acid and 395 mg (1.34 mmol) of 1-methyl-1H-1,2,4-triazole-5-amine were dissolved in 2.5 ml of pyridine, and 10 mg of 4-dimethylaminopyridine and a drop of DMF were added. At RT, 313 mg (2.58 mmol) of thionyl chloride were then added dropwise, and the mixture was stirred at 70° C. for 5 h. 0.5 ml of water was then added to the reaction, which had once more been cooled, and the mixture was stirred for about 30 min, acidified with a saturated KHSO4 solution and extracted three times with in each case 100 ml of ethyl acetate. The combined organic phases were washed once with 20 ml of a saturated NaHCO3 solution, dried over MgSO4, filtered off and concentrated. The residue was purified chromatographically on a silica gel column. Yield: 153 mg (24%) as a colorless oil.

reactant | 2-chloro-4-(methylsulfonyl)-3-{[(propan-2-ylideneamino)oxy]methyl}benzoic acid | 1.56 mmol, 500 mg | ClC1=C(C(=O)O)C=CC(=C1CON=C(C)C)S(=O)(=O)C | C12H14ClNO5S
reactant | 1-methyl-1H-1,2,4-triazole-5-amine | 1.34 mmol, 395 mg | CN1N=CN=C1N | C3H6N4
reactant | thionyl chloride | 2.58 mmol, 313 mg | S(=O)(Cl)Cl | Cl2OS
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | pyridine | 2.5 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | 0.5 ml | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-chloro-4-(methylsulfonyl)-N-(1-methyl-1H-1,2,4-triazol-5-yl)-3-{[(propan-2-ylideneamino)oxy]methyl}benzamide | ClC1=C(C(=O)NC2=NC=NN2C)C=CC(=C1CON=C(C)C)S(=O)(=O)C | C15H18ClN5O4S
